US07825256B2
Methylamine (800 μL, 40 wt % aqueous) was added to a solution of 3-[2-(benzo[1,3]dioxol-5-ylmethyl-tert-butoxycarbonyl-amino)-ethylamino]-3-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-propionic acid ethyl ester (15 mg, 0.027 mmol) in THF (0.8 mL). The reaction mixture stirred at room temperature for 16 h then was concentrated under reduced pressure. The residue was purified using column chromatography (DCM to 9:1 DCM/MeOH) to afford 14 mg (96%) of benzo[1,3]dioxol-5-ylmethyl-{2-[1-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-2-methylcarbamoyl-ethylamino]-ethyl}-carbamic acid tert-butyl ester as a clear oil.

reactant | Methylamine | 800 μL | CN | CH5N
reactant | 3-[2-(benzo[1,3]dioxol-5-ylmethyl-tert-butoxycarbonyl-amino)-ethylamino]-3-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-propionic acid ethyl ester | 0.027 mmol, 15 mg | C(C)OC(CC(C1=NC(=NC(=C1)C)N1C=NC=C1)NCCN(C(=O)OC(C)(C)C)CC1=CC2=C(OCO2)C=C1)=O | C28H36N6O6
solvent | THF | 0.8 mL | C1CCOC1 | C4H8O
product | benzo[1,3]dioxol-5-ylmethyl-{2-[1-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-2-methylcarbamoyl-ethylamino]-ethyl}-carbamic acid tert-butyl ester | 14 mg, 96% | C(C)(C)(C)OC(N(CCNC(CC(NC)=O)C1=NC(=NC(=C1)C)N1C=NC=C1)CC1=CC2=C(OCO2)C=C1)=O | C27H35N7O5
